US06716851B2
4-(2,5-Dimethoxyanilino)-2,6-di(2-pyridinyl)pyrimidine
The title compound was prepared from a mixture 4-chloro-2,6-di(2-pyridinyl)pyrimidine (25 mg, 0.093 mmol) and 2,5-dimethoxyaniline (21 mg, 0.140 mmol) similar to Example 111 and isolated as a yellow oil (2 mg, 6%). 1H NMR (CDCl3): 8.86-8.84 (m, 1H), 8.70-8.64 (m, 3H), 8.11 (s, 1H), 7.92 (s, 1H), 7.91-7.85 (m, 2H), 7.65 (s, 1H), 7.43-7.36 (m, 2H), 6.87 (d, J=9.0 Hz, 1H), 6.61 (dd, J=3.0, 9.0 Hz, 1H), 3.89 (s, 3H), 3.86 (s, 3H).

reactant | 4-chloro-2,6-di(2-pyridinyl)pyrimidine | 0.093 mmol, 25 mg | ClC1=NC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C14H9ClN4
reactant | 2,5-dimethoxyaniline | 0.140 mmol, 21 mg | COC1=C(N)C=C(C=C1)OC | C8H11NO2
product | 4-(2,5-Dimethoxyanilino)-2,6-di(2-pyridinyl)pyrimidine | COC1=C(NC2=NC(=NC(=C2)C2=NC=CC=C2)C2=NC=CC=C2)C=C(C=C1)OC | C22H19N5O2
